US06376683B1
(S)-malic acid was dissolved in isopropanol and p-toluenesulphonic acid (cat) was added and stirred at room temperature for 24 h. The reaction mixture was concentrated and distilled to give (S)-diisopropyl malate as colorless liquid. The residual material in the distillation flask was dissolved in EtOH and processed as above. Distillation afforded additional diester, raising the total yield.

reactant | (S)-malic acid | C([C@@H](O)CC(=O)O)(=O)O | C4H6O5
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropanol | C(C)(C)O | C3H8O
product | (S)-diisopropyl malate | C([C@@H](O)CC(=O)OC(C)C)(=O)OC(C)C | C10H18O5
